US04310346
To a solution of 110.5 g of o-nitrobenzenesulfonyl chloride and 50.0 g of 2,2,2-trifluoroethanol in 600 ml of diethyl ether was added 52.0 g of triethylamine at 5°-15° over a 45 minute period. The reaction mixture was stirred at 25° for 1 hour then washed with water, dried over MgSO4, and stripped in vacuo to give 2,2,2-trifluoroethyl 2-nitrobenzenesulfonate as an oil weighing 110.3 g.

reactant | o-nitrobenzenesulfonyl chloride | 110.5 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 2,2,2-trifluoroethanol | 50.0 g | FC(CO)(F)F | C2H3F3O
reactant | triethylamine | 52.0 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
product | 2,2,2-trifluoroethyl 2-nitrobenzenesulfonate | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OCC(F)(F)F | C8H6F3NO5S
